### PR TITLE
feat(ErdosProblems): 1095

### LINKED ISSUE #1294: Erdős Problem 1095
### What is the conjecture

https://www.erdosproblems.com/1095

  Let $g(k)>k+1$ be maximal such that if $n\leq g(k)$ then $\binom{n}{k}$ is divisible by a prime $\leq k$. Estimate $g(k)$.

Status:open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by jeinryu**
This PR adds the formalization of [Erdős Problems 1095](https://www.erdosproblems.com/1095).

### Problem Statement
Let $g(k)>k+1$ be maximal such that if $n\leq g(k)$ then $\binom{n}{k}$ is divisible by a prime $\leq k$. Estimate $g(k)$.

### Summary
- Defined `g(k)` with the condition `k < n` to handle the edge case where `choose n k = 1` when `n = k`.
- Added the known lower bound from [Ko99b](https://londmathsoc.onlinelibrary.wiley.com/doi/abs/10.1112/S0025579300007555).
- Added the conjectures from [EES74](https://mathscinet.ams.org/mathscinet/relay-station?mr=1199990) and [ELS93](https://www.ams.org/journals/mcom/1993-61-203/S0025-5718-1993-1199990-6/S0025-5718-1993-1199990-6.pdf).
- Added the heuristic conjecture from [SSW20](https://mathscinet.ams.org/mathscinet/relay-station?mr=4235124).

---
**Note to reviewers**
I'm new to the library, so please let me know if there are any misformalization or formatting issues. I would greatly appreciate any feedback.

Closes #1294

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1095.lean [hunk 1]
```diff
@@ -0,0 +1,74 @@
...
+
+/-!
+# Erdős Problem 1095
+
+*Reference:* [erdosproblems.com/1095](https://www.erdosproblems.com/1095)
+-/
+
+namespace Erdos1095
+
+open Real Nat Filter Asymptotics
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1095.lean]:
```suggestion
open Real Filter Asymptotics
open Nat hiding log
```

File: FormalConjectures/ErdosProblems/1095.lean [hunk 2]
```diff
@@ -0,0 +1,74 @@
...
+  sSup {m | ∀ n : ℕ, (k < n ∧ n ≤ m) → (∃ p, p.Prime ∧ p ≤ k ∧ (p ∣ choose n k))}
+
+
+/--
+The current record is\[g(k) \gg \exp(c(\log k)^2)\]for some $c>0$,
+due to Konyagin [Ko99b](https://londmathsoc.onlinelibrary.wiley.com/doi/abs/10.1112/S0025579300007555).
+-/
+@[category research solved, AMS 05 11]
+theorem erdos_1095_lower_solved :
+    ∃ c > 0, (fun k : ℕ => exp (c * (log k : ℝ)^2)) =O[atTop] fun k => (g k: ℝ) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1095.lean]: then
```suggestion
    ∃ c > 0, (fun k : ℕ => exp (c * log k ^ 2)) =O[atTop] fun k => g k := by
```

File: FormalConjectures/ErdosProblems/1095.lean [hunk 3]
```diff
@@ -0,0 +1,74 @@
...
+
+open Real Nat Filter Asymptotics
+
+/--
+Let $g(k)>k+1$ be maximal such that
+if $n\leq g(k)$ then $\binom{n}{k}$ is divisible by a prime $\leq k$.
+Estimate $g(k)$.
+-/
+noncomputable def g (k : ℕ) : ℕ :=
+  sSup {m | ∀ n : ℕ, (k < n ∧ n ≤ m) → (∃ p, p.Prime ∧ p ≤ k ∧ (p ∣ choose n k))}
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1095.lean]:
```suggestion
  sSup {m | ∀ n ≤ m, ∃ p ≤ k, p.Prime ∧ p ∣ choose n k}
```

File: FormalConjectures/ErdosProblems/1095.lean [hunk 4]
```diff
@@ -0,0 +1,74 @@
...
+    ∃ c > 0, (fun k : ℕ => exp (c * (log k : ℝ)^2)) =O[atTop] fun k => (g k: ℝ) := by
+  sorry
+
+/--
+Ecklund, Erdős, and Selfridge conjectured $g(k)\leq \exp(k^{1+o(1)})$
+[EES74](https://mathscinet.ams.org/mathscinet/relay-station?mr=1199990)
+-/
+@[category research open, AMS 05 11]
+theorem erdos_1095_upper_conjecture :
+    ∃ c ≥ 1, ∀ k : Nat, g k ≤ exp ((k : ℝ) ^ c) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1095.lean]: This isn't an accurate translation of the informal statement. You replaced the o(1) by O(1)

File: FormalConjectures/ErdosProblems/1095.lean [hunk 5]
```diff
@@ -0,0 +1,74 @@
...
+  sorry
+
+/--
+Erdős, Lacampagne, and Selfridge [ELS93](https://www.ams.org/journals/mcom/1993-61-203/S0025-5718-1993-1199990-6/S0025-5718-1993-1199990-6.pdf)
+write 'it is clear to every right-thinking person' that
+$g(k)\geq\exp(c\frac{k}{\log k})$ for some constant $c>0$.
+-/
+@[category research open, AMS 05 11]
+theorem erdos_1095_lower_conjecture :
+    ∃ c > 0, ∀ k : Nat, g k ≥ exp (c * (k : ℝ) / log (k : ℝ)) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1095.lean]: I think you can get rid of a lot of type ascriptions
```suggestion
    ∃ c > 0, ∀ k, g k ≥ exp (c * k / log k) := by
```

File: FormalConjectures/ErdosProblems/1095.lean [hunk 6]
```diff
@@ -0,0 +1,74 @@
...
+  sorry
+
+/--
+[Sorenson, Sorenson, and Webster](https://mathscinet.ams.org/mathscinet/relay-station?mr=4235124) give heuristic evidence that
+\[\log g(k) \asymp \frac{k}{\log k}.\]
+-/
+@[category research open, AMS 05 11]
+theorem erdos_1095_theta :
+    (fun k => log (g k : ℝ)) =Θ[atTop] (fun k => (k : ℝ) / log (k : ℝ)) :=
+sorry
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1095.lean]:
```suggestion
  sorry

```

File: FormalConjectures/ErdosProblems/1095.lean [hunk 7]
```diff
@@ -0,0 +1,74 @@
...
+    ∃ c > 0, ∀ k : Nat, g k ≥ exp (c * (k : ℝ) / log (k : ℝ)) := by
+  sorry
+
+/--
+[Sorenson, Sorenson, and Webster](https://mathscinet.ams.org/mathscinet/relay-station?mr=4235124) give heuristic evidence that
+\[\log g(k) \asymp \frac{k}{\log k}.\]
+-/
+@[category research open, AMS 05 11]
+theorem erdos_1095_theta :
+    (fun k => log (g k : ℝ)) =Θ[atTop] (fun k => (k : ℝ) / log (k : ℝ)) :=
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1095.lean]:
```suggestion
    (fun k => log (g k)) =Θ[atTop] (fun k => k / log k) :=
```

File: FormalConjectures/ErdosProblems/1095.lean [hunk 8]
```diff
@@ -0,0 +1,74 @@
...
+write 'it is clear to every right-thinking person' that
+$g(k)\geq\exp(c\frac{k}{\log k})$ for some constant $c>0$.
+-/
+@[category research open, AMS 05 11]
+theorem erdos_1095_lower_conjecture :
+    ∃ c > 0, ∀ k : Nat, g k ≥ exp (c * (k : ℝ) / log (k : ℝ)) := by
+  sorry
+
+/--
+[Sorenson, Sorenson, and Webster](https://mathscinet.ams.org/mathscinet/relay-station?mr=4235124) give heuristic evidence that
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1095.lean]: This line is too long

File: FormalConjectures/ErdosProblems/1095.lean (hunk 7 above)
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1095.lean]: This is the wrong asymptotic notation

File: FormalConjectures/ErdosProblems/1095.lean (hunk 2 above)
Comment (jeinryu) [reply FormalConjectures/ErdosProblems/1095.lean]: This change gave me this error: failed to synthesize Norm ℕ.
We need coercion for RHS for asymptotic comparison.

File: FormalConjectures/ErdosProblems/1095.lean (hunk 3 above)
Comment (jeinryu) [reply FormalConjectures/ErdosProblems/1095.lean]: I think the informal statement from the source is incorrect, so I added the condition $k < n$. Using only the condition $\forall n ≤ m$ includes the case $n = k$. Since `Nat.choose k k = 1` has no prime factors, this would imply $g(k) < k$, contradicting the problem statement ($g(k) > k+1$). (For $n < k$, the statement trivially holds)

**Comment by jeinryu** [comment]
Hi @YaelDillies, thanks for the review! I've applied most of your suggestions. For the few points I didn't change, I've left replies. Please let me know if further modifications are needed.

File: FormalConjectures/ErdosProblems/1095.lean (hunk 3 above)
Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/1095.lean]: Ah right, I forgot about `n = k`

**Review by YaelDillies — APPROVED** [review]
The o(1) statement wasn't correct still, but I have fixed it now. Thanks!
